US05883102
5'-Fluoro-1-(pyrrolidinylcarbonyl)spiro[piperidine-4,2'(1'H)-quinazoline]-4'-amine hydrochloride
1-(1-pyrrolidinylcarbonyl)-4-piperidone ethylene ketal (120 mg, 0.5 mmol) and 2-amino-6-fluorobenzamidine hydrochloride (113 mg, 0.5 mmol) in dry acetonitrile (10 ml) were heated at reflux for 18 h. The mixture was cooled and filtered and the filtrate treated with an equal volume of dry ether. After standing in the refrigerator overnight the pale yellow solid which separated was filtered, washed with dry ether and dried to give the title compound (55 mg), m.p. 246°-248° C. (dec.).

reactant | 1-(1-pyrrolidinylcarbonyl)-4-piperidone ethylene ketal | 0.5 mmol, 120 mg | C1COC2(CCN(CC2)C(=O)N2CCCC2)O1 | C12H20N2O3
reactant | 2-amino-6-fluorobenzamidine hydrochloride | 0.5 mmol, 113 mg | Cl.NC1=C(C(=N)N)C(=CC=C1)F
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5'-Fluoro-1-(pyrrolidinylcarbonyl)spiro[piperidine-4,2'(1'H)-quinazoline]-4'-amine hydrochloride | 55 mg | Cl.FC1=C2C(=NC3(NC2=CC=C1)CCN(CC3)C(=O)N3CCCC3)N | InChI=1S/C17H22FN5O.ClH/c18-12-4-3-5-13-14(12)15(19)21-17(20-13)6-10-23(11-7-17)16(24)22-8-1-2-9-22;/h3-5,20H,1-2,6-11H2,(H2,19,21);1H
